US06710055B2
b) 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]benzimidazol-5-yl-sulfonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-sulfonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide, ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 87% of theory, C27H30N6O4S (534.6); Rf value: 0.13 (silica gel; dichloromethane/ethanol=9:1); EKA mass spectrum: (M+H)+=535; (M+H+Na)++=279.

reactant | 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-sulfonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide | C1(=CC=CC=C1)N(S(=O)(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C27H27N5O4S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)aminomethyl]benzimidazol-5-yl-sulfonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)amide hydrochloride | Yield: 87% | Cl.C1(=CC=CC=C1)N(S(=O)(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C27H30N6O4S.ClH/c1-3-37-26(34)15-16-33(21-7-5-4-6-8-21)38(35,36)22-13-14-24-23(17-22)31-25(32(24)2)18-30-20-11-9-19(10-12-20)27(28)29;/h4-14,17,30H,3,15-16,18H2,1-2H3,(H3,28,29);1H
